US07452911B2
3.65d 2-bromo-5-(4-chloro-phenyl)-pyridin-3-ylamine
A solution of 5.60 g (17.9 mmol) 2-bromo-5-(4-chloro-phenyl)-3-nitro-pyridine, 20.3 g (90.0 mmol) tin(II)-chloride and 18.9 g (225 mmol) NaHCO3 in 300 mL EtOAc is refluxed for 30 h. After filtration the solvent is eliminated i.vac. The residue is triturated with DCM and after filtration the filter residue is dried in the air.

reactant | 2-bromo-5-(4-chloro-phenyl)-3-nitro-pyridine | 17.9 mmol, 5.60 g | BrC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)Cl | C11H6BrClN2O2
reactant | tin(II)-chloride | 90.0 mmol, 20.3 g | [Sn](Cl)Cl
reactant | NaHCO3 | 225 mmol, 18.9 g | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-bromo-5-(4-chloro-phenyl)-pyridin-3-ylamine | BrC1=NC=C(C=C1N)C1=CC=C(C=C1)Cl | C11H8BrClN2
